US07939528B2
To a mixture of 2,2,2-trifluoro-N-{3-fluoro-5-[(4-formylphenyl)oxy]-2-nitrophenyl}acetamide (1.25 g, 3.36 mmol), triethyl orthoformate (0.614 mL, 3.69 mmol), and ethylene glycol (0.749 g, 13.43 mmol) was added Bu4NBr3 (0.016 g, 0.034 mmol). The homogeneous reaction was stirred at ambient temperature for 1 hour and then diluted with ethyl acetate. The organics were washed 1×NaHCO3, once in brine and then dried (Na2SO4), filtered and concentrated with no further purification necessary. Residue (0.400 g) was re-dissolved in ethyl acetate (5 mL) and hydrogenated using 10% palladium on carbon (0.080 g) under an atmosphere of hydrogen for 16 hours. The catalyst was removed by filtration through Celite and the filtrate concentrated. The residue was re-dissolved in acetone and MP-Fosic acid resin (1.26 g, 1.92 mmol) was added. The mixture was stirred for 16 hours, filtered and the filtrate was concentrated. Chromatography on silica using 40% ethyl acetate/hexanes eluted the product to give 0.153 g of 4-{[4-fluoro-2-(trifluoromethyl)-1H-benzimidazol-6-yl]oxy}benzaldehyde as an off-white solid.

reactant | 2,2,2-trifluoro-N-{3-fluoro-5-[(4-formylphenyl)oxy]-2-nitrophenyl}acetamide | 3.36 mmol, 1.25 g | FC(C(=O)NC1=C(C(=CC(=C1)OC1=CC=C(C=C1)C=O)F)[N+](=O)[O-])(F)F | C15H8F4N2O5
reactant | triethyl orthoformate | 3.69 mmol, 0.614 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | ethylene glycol | 13.43 mmol, 0.749 g | C(CO)O | C2H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{[4-fluoro-2-(trifluoromethyl)-1H-benzimidazol-6-yl]oxy}benzaldehyde | 0.153 g | FC1=CC(=CC=2NC(=NC21)C(F)(F)F)OC2=CC=C(C=O)C=C2 | C15H8F4N2O2
